US20010001799A1
A solution of 119.9 ml of 2-ethylphenol in 500 ml of chlorobenzene was treated with 126.9 g of iodine and 134.5 g of copper(II) chloride and stirred under reflux for 5.5 hours. After cooling the reaction mixture was filtered and the residue was washed with methylene chloride. The combined filtrates were washed with aqueous sodium thiosulphate solution and ice-water. The organic phases were dried over sodium sulphate and concentrated. The residue was crystallized from hexane and gave 79.3 g of 2-ethyl-4-iodo-phenol. The mother liquor was chromatographed over silica gel and gave a further 41 g of 2-ethyl-4-iodo-phenol; MS (EI) m/z 248 (M).

reactant | 2-ethylphenol | 119.9 ml | C(C)C1=C(C=CC=C1)O | C8H10O
reactant | iodine | 126.9 g | II | I2
solvent | chlorobenzene | 500 ml | ClC1=CC=CC=C1 | C6H5Cl
catalyst | copper(II) chloride | 134.5 g | [Cu](Cl)Cl
product | 2-ethyl-4-iodo-phenol | 79.3 g | C(C)C1=C(C=CC(=C1)I)O | C8H9IO
